US04150129
The starting material is prepared as follows: The solution of 70 g of 2-(3-methoxyphenyl)-1-pyrroline [J. Org. Chem. 23, 1278, 1281 (1958)] and 43.2 g of α-angelicalactone in 600 ml of toluene is refluxed overnight. A second portion of 43.2 g of α-angelicalactone is added, the mixture is again refluxed overnight, cooled and evaporated. The residue is crystallized from 50 ml of ethyl acetate, to yield the 3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, melting at 140°-142°.

reactant | 2-(3-methoxyphenyl)-1-pyrroline | 70 g | COC=1C=C(C=CC1)C1=NCCC1 | C11H13NO
reactant | α-angelicalactone | 43.2 g | CC1=CCC(=O)O1 | C5H6O2
reactant | α-angelicalactone | 43.2 g | CC1=CCC(=O)O1 | C5H6O2
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | C(C(=O)C)C=1C(NCCCC1C1=CC(=CC=C1)OC)=O | C16H19NO3
